US06596731B2
2-(3,4-Dimethyl-phenyl)-7-ethyl-imidazo[1,2-a]pyridine
The title compound, MS: m/e=250.8 (M+H+), was prepared in accordance with the general method of example 8 from 2-Bromo-1-(3,4-dimethyl-phenyl)-ethanone and 4-Ethyl-pyridin-2-ylamine.

reactant | 2-Bromo-1-(3,4-dimethyl-phenyl)-ethanone | BrCC(=O)C1=CC(=C(C=C1)C)C | C10H11BrO
reactant | 4-Ethyl-pyridin-2-ylamine | C(C)C1=CC(=NC=C1)N | C7H10N2
product | 2-(3,4-Dimethyl-phenyl)-7-ethyl-imidazo[1,2-a]pyridine | CC=1C=C(C=CC1C)C=1N=C2N(C=CC(=C2)CC)C1 | C17H18N2
